US07524848B2
Synthesis of 1-(4-(4-tert-butylphenylsulfonyl)piperazin-1-yl)-2-(pyridin-2-yl)ethanone
A 25 mL flask was charged with 60 mg 2-(pyridin-4-yl)acetic acid (0.35 mmol, 1.0 equiv), 150 mg 1-(4-tert-butylphenylsulfonyl)piperazine (0.53 mmol, 1.5 equiv), 378 mg O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU, 0.88 mmol, 2.1 equiv), and 119 mg 1-hydroxybenzotriazole hydrate (HOBT, 0.88 mmol, 2.1 equiv). The flask was then charged with 5 mL DMF, stirring was initiated (magnetic stirrer) and 0.97 mL N-methylmorpholine (NMM, 0.88 mmol, 2.1 equiv) was added in one portion to the suspension. After 12 h, the suspension was diluted with 20 mL sat. NaHCO3 and extracted (2×CH2Cl2). The CH2Cl2 solution was then dried (Na2SO4) and concentrated under reduced pressure. Purification by flash chromatography (SiO2, 0-5% MeOH/CH2Cl2) gave the product as a white solid: 1H NMR (CDCl3, 400 MHz) δ 8.50 (d, J=5.2 Hz, 2 H), 7.70 (d, J=8.5 Hz, 2 H), 7.55 (d, J=8.5 Hz, 2 H), 7.09 (d, J=5.3 Hz, 2 H), 3.73 (m, 2 H), 3.65 (s, 2H), 3.53 (m, 2H), 2.99 (m, 2H), 2.89 (m, 2H), 1.36 (s, 3 H).

reactant | 2-(pyridin-4-yl)acetic acid | 0.35 mmol, 60 mg, 1.0 equiv | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | 1-(4-tert-butylphenylsulfonyl)piperazine | 0.53 mmol, 150 mg, 1.5 equiv | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C14H22N2O2S
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.88 mmol, 378 mg, 2.1 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.88 mmol, 119 mg, 2.1 equiv | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.88 mmol, 0.97 mL, 2.1 equiv | CN1CCOCC1 | C5H11NO
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(4-(4-tert-butylphenylsulfonyl)piperazin-1-yl)-2-(pyridin-2-yl)ethanone | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(CC1=NC=CC=C1)=O | C21H27N3O3S
